US04057647
6 g. of thionyl chloride and 10 g. of 3-(2',4'-difluoro-4-biphenylyl)butyric acid in 80 ml. of benzene are allowed to stand at 25° for 24 hours and the mixture is evaporated under reduced pressure to give 3-(2',4'-difluoro-4-biphenylyl)butyryl chloride.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(2',4'-difluoro-4-biphenylyl)butyryl chloride | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)Cl)C | C16H13ClF2O
